data/rdb19/train.csv
rxn,smiles,ea
3523,[C:17]([C:18](=[O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[O:19][C:18]([C:17]([H:23])([H:24])[H:25])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26])([H:9])[H:10])([H:6])([H:7])[H:8],30.32745696074562
1812,[C:15]([O:16][C:17](=[C:18]([H:23])[H:24])[H:22])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:15]([O:16][C:17](=[C:18][H:24])[H:22])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10],31.95062716701068
400,[C:4](=[C:5]([N:6]([C:7](=[O:8])[H:13])[H:12])[H:11])([H:9])[H:10].[O:1]([O:2])[H:3]>>[O:1][O:2][C:5]([C:4]([H:3])([H:9])[H:10])([N:6]([C:7](=[O:8])[H:13])[H:12])[H:11],18.06270466107526
4866,[C:15]([C:16]([C:17]([C:18]([H:28])([H:29])[H:30])([N:19]([C:20](=[O:21])[H:32])[H:31])[H:27])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:6])[H:7])[H:11])([H:8])([H:9])[H:10]>>[C:15]([C:16]([C:17]([N:19]([C:20](=[O:21])[H:32])[H:31])[H:27])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])=[C:5]([H:6])[H:7])([H:8])([H:9])[H:10].[H:11][C:18]([H:28])([H:29])[H:30],74.36560308013577
3194,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([H:22])([H:23])[H:24]>>[C:1]([C:2]([H:10])([H:11])[C:21]([H:22])([H:23])[H:24])([H:7])([H:8])[H:9].[C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20],57.57431319102761
4767,[C:1]([H:2])([H:3])[H:4].[C:5]([C:6]([C:7]([C:8]([H:19])([H:20])[H:21])([O:9][C:10](=[O:11])[C:12]([H:22])([H:23])[H:24])[H:18])([H:16])[H:17])([H:13])([H:14])[H:15]>>[C:1]([H:2])([H:3])([H:4])[H:18].[C:5]([C:6]([C:7]([C:8]([H:19])([H:20])[H:21])[O:9][C:10](=[O:11])[C:12]([H:22])([H:23])[H:24])([H:16])[H:17])([H:13])([H:14])[H:15],18.747886938333977
4899,[C:15]([C:16]([C:17]([C:18]([H:31])([H:32])[H:33])([c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:30])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([C:2]([C:3]([H:4])[O:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:4])([O:5][C:6]([H:12])([H:13])[H:14])[C:17]([C:16]([C:15]([H:25])([H:26])[H:27])([H:28])[H:29])([C:18]([H:31])([H:32])[H:33])[H:30])([H:10])[H:11])([H:7])([H:8])[H:9].[c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38],74.72241546021542
316,[C:4]([O:5][C:6](=[O:7])[C:8](=[C:9]([H:14])[H:15])[C:10]([H:16])([H:17])[H:18])([H:11])([H:12])[H:13].[O:1]([O:2])[H:3]>>[O:1]([O:2][C:8]([C:6]([O:5][C:4]([H:11])([H:12])[H:13])=[O:7])([C:9]([H:14])[H:15])[C:10]([H:16])([H:17])[H:18])[H:3],23.09501765371533
3477,[C:17]([O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:17]([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:9])[H:10])([H:6])([H:7])[H:8],58.48058923787903
2123,[C:11]([C:12]([C:13]([H:14])[c:15]1[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]([H:29])[c:20]1[H:30])([H:24])[H:25])([H:21])([H:22])[H:23].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[H:9][C:13]([C:12]([C:11]([H:21])([H:22])[H:23])([H:24])[H:25])([H:14])[c:15]1[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]([H:29])[c:20]1[H:30].[N:1]([C:2](=[O:3])[C:4](=[C:5][H:10])[H:8])([H:6])[H:7],34.32413414254552
4870,[C:15]([C:16](=[O:17])[O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:6])[H:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])=[C:5]([H:6])[H:7])([H:8])([H:9])[H:10].[H:11][C:19]([O:18][C:16]([C:15]([H:21])([H:22])[H:23])=[O:17])([C:20]([H:25])[H:26])[H:24],35.31310911808396
4782,[C:1]([H:2])([H:3])[H:4].[C:5]([C:6](=[O:7])[O:8][C:9](=[C:10]([H:15])[H:16])[H:14])([H:11])([H:12])[H:13]>>[C:1]([H:2])([H:3])([H:4])[H:16].[C:5]([C:6](=[O:7])[O:8][C:9](=[C:10][H:15])[H:14])([H:11])([H:12])[H:13],24.800444667664124
339,[C:4]([O:5][C:6](=[C:7]([H:12])[H:13])[H:11])([H:8])([H:9])[H:10].[O:1]([O:2])[H:3]>>[O:1]([O:2][C:6]([O:5][C:4]([H:8])([H:9])[H:10])([C:7]([H:12])[H:13])[H:11])[H:3],20.942897547676694
